Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
___ swelling and pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o F with history of asthma, HTN, prior history of DVTs
presenting to the ED with left lower extremity swelling and an
ultrasound significant for DVT.

The patient reports that she has had previous multiple DVTs and
was previously managed on Coumadin. She is currently not on any
anticoagulation other than aspirin. She denies chest pain or
shortness of breath. Dr. ___, the covering PCP 
recommended
that the patient be admitted for anticoagulation due to concerns
regarding mild cognitive impairment or issues with memory. 

In the ED, initial VS were  97.6 60 92/56 18 98% RA.
Labs notable for CBC with normal WBC, H/H of 11.1/33.8, Plt 221.
BMP with Cr of 1.5, up from baseline in ___ of 1.3.
She was started on an IV heparin drip.
She was admitted to medicine for initiation of anticoagulation.

Upon my evaluation, the patient appears extremely well. She
reports that on the day prior to evaluation, she was walking her
dog, when she began to experience left leg discomfort. She then
noticed the development of a swelling or "clot" near the left
knee, which she reported then extended over time. She had an
outpatient ultrasound which demonstrated DVT.

She denies chest pain, palpitations, dyspnea, lightheadedness.
She reports she has mild discomfort with exertion of the left
calf, no pain at rest. She denies numbness or tingling or 
changes
in sensation.  She otherwise denies fevers, chills, nausea,
vomiting, hematuria, abdominal pain, bloody stools. She does 
feel
like she has been more dehydrated in the past day, and reports
very little fluid intake yesterday.

She reports her last DVT was approximately ___ years ago. She
reports she did lovenox injections at that time and subsequently
took Coumadin. She reports another DVT prior to that time, which
was also treated with Coumadin.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- asthma
- HTN
- varicose veins
- uterine fibroids
- dyspepsia, small hiatal hernia
- mild cognitive impairment, MRI with moderately severe
microvascular ischemic disease
- prior DVTs treated with coumadin
 
Social History:
___
Family History:
Her mother died at ___ years old from
complications during hernia surgery.  Her father died in his 
___.
He had a massive myocardial infarction.  She has a sister who
died in her ___ from glioma.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 97.5 PO 119 / 69 57 18 97 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes slightly dry
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: 2+ DP pulses bilaterally, + cordlike induration of L upper
thigh with mild overlying erythema, no edema bilaterally
SKIN: mild erythema of L upper thigh
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: 98.6PO 96/60R Lying 59 18 94 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes slightly dry
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: 2+ DP pulses bilaterally, + cordlike induration of L upper
thigh with mild overlying erythema, no edema bilaterally
SKIN: mild erythema of L upper thigh
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 12:19AM BLOOD WBC-6.0 RBC-3.82* Hgb-11.1* Hct-33.8* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-14.6 RDWSD-47.0* Plt ___
___ 12:19AM BLOOD Neuts-61.7 Lymphs-18.4* Monos-15.2* 
Eos-4.0 Baso-0.5 Im ___ AbsNeut-3.70# AbsLymp-1.10* 
AbsMono-0.91* AbsEos-0.24 AbsBaso-0.03
___ 12:19AM BLOOD ___ PTT-25.0 ___
___ 12:19AM BLOOD Glucose-109* UreaN-28* Creat-1.5* Na-138 
K-4.1 Cl-98 HCO3-25 AnGap-15

DISCHARGE LABS:
___ 07:25AM BLOOD WBC-4.5 RBC-3.41* Hgb-9.8* Hct-30.2* 
MCV-89 MCH-28.7 MCHC-32.5 RDW-14.4 RDWSD-46.5* Plt ___
___ 07:25AM BLOOD ___ PTT-84.4* ___
___ 07:25AM BLOOD Glucose-87 UreaN-23* Creat-1.0 Na-139 
K-3.7 Cl-103 HCO3-26 AnGap-10
___ 07:25AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.1

IMAGING:
Bilateral lower extremities ultrasound ___
There is deep venous thrombosis of the left lower extremity 
veins
extending proximally up to the mid- left common iliac vein. No
DVT in the right lower extremity.

Upon my review, EKG with sinus rhythm, normal intervals, T wave
inversions in III, V1, with t wave flattening in V2-V3. No acute
ST changes. Poor R wave progression. 

 
Brief Hospital Course:
# Acute Deep Vein Thrombosis: Patient presented with LLE pain 
and difficultly walking. She had an outpatient ultrasound which 
revealed a large DVT extending from the peroneal vein to the 
iliac. EKG without evidence of right heart strain and EKG, trops 
at baseline. She remains on room air and hemodynamically stable, 
without indication for further pulmonary embolus work up. She 
has no evidence of distal
vascular compromise, distal to her LLE DVT. Her CrCl is 
borderline at 36, but after discussion with pharmacy, it was 
felt that lovenox bridge was OK.  She was also started on 5mg 
Coumadin (got 1x dose of 7.5mg today).  Spoke with Pt's daughter 
___ as well and paperwork faxed over for pt to follow-up in 
___ clinic at ___ early next week.

# Acute on Chronic Renal Failure: Mild elevation in Cr of 1.5, 
from ___ baseline of 1.3. Possibly pt was slightly prerenal as 
it improved to 1.0 with 1L NS.  She may need further w/u of 
likely progressive CKD as OP to delineate etiology.

# Anemia: Admission labs notable for a H/H of 11.1/33.8, new 
anemia from prior labs. No signs or symptoms of active bleeding. 
Patient had a recent endoscopy and colonoscopy in ___.  
Likely needs OP w/u for iron-deficicency.

# HTN: Home HCTZ and losartan were held upon admission due to
concern about possible ___, restarted on discharge

# Depression: She was continued on citalopram.

# GERD: Continued home omeprazole.

# Microvascular ischemic disease of the brain: Continue ASA___

Transitional:
============
[ ] Consider f/u OP ___ and worsening anemia (may be 
related to worsening renal function)

Greater than 30 minutes spent on discharge counseling and 
coordination of care.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Citalopram 20 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SubQ twice a day Disp #*14 
Syringe Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth every day Disp 
#*30 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower extremity DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with a new clot in your leg.  We restarted your 
Coumadin and you will do lovenox shots until your INR is at the 
target level.  At this point, we have no indication that the 
clot has spread to your lungs.  It is likely that even if a 
small clot has traveled to your lungs, it would be managed 
similarly with life-long Coumadin.

Please return if you experience suddenly worsening shortness of 
breath, chest pain, severe leg pain, or notice any color changes 
or temperature changes of your leg.

We have set you up with the ___ clinic at ___.  Please 
call to get an appointment early next week.  Their phone number 
is ___

It was a pleasure taking care of you at ___ 
___
 
Followup Instructions:
___